US07060707B2
AAV 4: Coupling with HATU/HOAt
The resin-bound, free amine or hydrazine (0.389 mmol) is washed with NMP (5×5 ml, 3-minutes each time). A solution of the suitable Fmoc-protected amino acid or of a carboxylic acid unit (0.779 mmol, 2 eq), HATU (296 mg, 0.779 mmol, 2 eq) and HOAt (106 mg, 0.779 mmol, 2 eq) in NMP (5 ml) is then added to the resin. Finally, sym-collidine (1027 μl, 7.79 mmol, 20 eq) is added, and the resin is shaken overnight. The resin is then washed with NMP (5×5 ml, 3 minutes each time), and the coupling step is repeated with the same reagents, amounts and reaction time. The resin is subsequently washed with NMP (5×5 ml, 3 minutes each time).

reactant | hydrazine | 0.389 mmol | NN | H4N2
reactant | HATU | 0.779 mmol, 296 mg, 2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | 0.779 mmol, 106 mg, 2 eq | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | sym-collidine | 7.79 mmol, 1027 μl, 20 eq | CC1=CC(=NC(=C1)C)C | C8H11N
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | HATU HOAt | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F.C1=CC2=C(N=C1)N(N=N2)O | InChI=1S/C10H15N6O.C5H4N4O.F6P/c1-14(2)10(15(3)4)17-16-9-8(12-13-16)6-5-7-11-9;10-9-5-4(7-8-9)2-1-3-6-5;1-7(2,3,4,5)6/h5-7H,1-4H3;1-3,10H;/q+1;;-1
